US07262220B2
h) 7-Amino-6-methoxy-1H-quinazoline-2,4-dione
120 mg (0.5 mmol) of 6-methoxy-7-nitro-1H-quinazoline-2,4-dione were taken up in a mixture of 5 ml of tetrahydrofuran, 5 ml of methanol and 5 ml of acetic acid and hydrogenated with palladium catalysis at room temperature for 3 hours. The reaction solution was heated to dissolve precipitated product and was filtered hot to remove the catalyst. The filtrate was concentrated and, after addition of toluene, again concentrated. 100 mg (100%) of the desired product were obtained.

reactant | 6-methoxy-7-nitro-1H-quinazoline-2,4-dione | 0.5 mmol, 120 mg | COC=1C=C2C(NC(NC2=CC1[N+](=O)[O-])=O)=O | C9H7N3O5
reactant | methanol | 5 ml | CO | CH4O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | 7-Amino-6-methoxy-1H-quinazoline-2,4-dione | 100 mg, 100% | NC1=C(C=C2C(NC(NC2=C1)=O)=O)OC | C9H9N3O3
